US09445594B2
Preparation of 1-(2-isopropylphenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)thiourea (F45)
To a solution of (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine (0.066 g, 0.20 mmol) in tetrahydrofuran (4.0 mL), 1-isopropyl-2-isothiocyanatobenzene (0.048 g, 0.27 mmol) was added. The reaction mixture was stirred in a pre-heated heating block at 80° C. for 4 hours. The reaction mixture was adsorbed onto Celite® and purified via reverse phase chromatography using 5-100% acetonitrile/water as eluent to afford the title compound as a white solid (0.070 g, 68%): 1H NMR (400 MHz, DMSO-d6) δ 9.40 (s, 1H), 9.30 (s, 1H), 8.07 (dd, J=9.4, 7.3 Hz, 4H), 7.81 (s, 1H), 7.68-7.58 (m, 2H), 7.44 (d, J=8.0 Hz, 2H), 7.36 (d, J=7.7 Hz, 1H), 7.29 (t, J=7.5 Hz, 1H), 7.21 (dd, J=13.2, 6.1 Hz, 2H), 4.78 (s, 2H), 3.11 (s, 1H), 1.15 (d, J=6.9 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 512 ([M+H]+).

reactant | (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine | 0.20 mmol, 0.066 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CN)(F)F | C16H13F3N4O
reactant | 1-isopropyl-2-isothiocyanatobenzene | 0.27 mmol, 0.048 g | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | 1-(2-isopropylphenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)thiourea | 0.070 g, 68% | C(C)(C)C1=C(C=CC=C1)NC(=S)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C26H24F3N5OS
